US08283353B2
6-{[3-fluoro-2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-4-[cis-3-(2-hydroxy-1,2-dimethylpropoxy)cyclobutyl]-2-methyl-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (806 mg), sodium hydrogen carbonate (1.29 g) and dimethyl sulfoxide (2 mL) was stirred at 60° C. for 30 min, a solution of 3′-fluoro-4′-({4-[cis-3-(2-hydroxy-1,2-dimethylpropoxy)cyclobutyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (430 mg) in dimethyl sulfoxide (2 mL) was added, and the mixture was stirred at 90° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (3 mL). N,N′-Carbonyldiimidazole (150 mg) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (141 mg) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=50/50→35/65 (volume ratio)] to give the title compound as a colorless amorphous compound (542 mg, 81%).

reactant | hydroxylammonium chloride | 806 mg | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 1.29 g | C(O)([O-])=O.[Na+]
reactant | 3′-fluoro-4′-({4-[cis-3-(2-hydroxy-1,2-dimethylpropoxy)cyclobutyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 430 mg | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=C(N2)C)[C@@H]2C[C@@H](C2)OC(C(C)(C)O)C)=O)C=2C(=CC=CC2)C#N | C32H36FN5O3
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 6-{[3-fluoro-2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-4-[cis-3-(2-hydroxy-1,2-dimethylpropoxy)cyclobutyl]-2-methyl-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=C(N2)C)[C@@H]2C[C@@H](C2)OC(C(C)(C)O)C)=O)C2=C(C=CC=C2)C2=NOC(N2)=O | C33H37FN6O5
